US07582673B2
To a solution of the 2-methoxy-N-[2-(4-nitrobenzenesulfonylamino)phenyl]-5-trifluoromethanesulfonylbenzenesulfonamide (1 mmol) in AcOH (5 mL), iron powder (300 mg) was added and the resulting reaction mixture was heated at 100° C. for 30 min. The reaction mixture was filtered through a short pad of Celite and the pad was washed with methanol (50 mL) and dichloromethane (25 mL). The filtrate was concentrated under vacuum. The residue obtained was dissolved in EtOAc (50 mL) and washed with 1% aqueous KOH solution (25 mL). The organic layer was dried over anhydrous sodium sulfate and the solvent was removed to dryness in vacuo to give 486 mg of crude N-[2-(4-aminobenzenesulfonylamino) -phenyl]-2-methoxy-5-trifluoro methanesulfonyl-benzenesulfonamide. LC: Tr 1.09 min; MS: 566.7 (M+1)+.

reactant | 2-methoxy-N-[2-(4-nitrobenzenesulfonylamino)phenyl]-5-trifluoromethanesulfonylbenzenesulfonamide | 1 mmol | COC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C20H16F3N3O9S3
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | iron | 300 mg | [Fe] | Fe
product | N-[2-(4-aminobenzenesulfonylamino) -phenyl]-2-methoxy-5-trifluoro methanesulfonyl-benzenesulfonamide | 486 mg | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)OC | C20H18F3N3O7S3
